US04096267
Step A: Tert-butyl (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetate
A mixture of 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone (9.2 g., 0.03 mole), potassium carbonate (8.29 g., 0.06 mole) and tert-butyl bromoacetate (6.44 g., 0.033 mole) in dimethylformamide (30 ml.) is stirred at 25° C. for two hours. The reaction mixture is poured into cold water (150 ml.) and the tert-butyl (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetate which separates is filtered, rinsed with water and dried.

reactant | 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.03 mole, 9.2 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1=CC=CC=C1 | C16H12Cl2O2
reactant | potassium carbonate | 0.06 mole, 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 0.033 mole, 6.44 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetate | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OC(C)(C)C)(C1=CC=CC=C1)C | C22H22Cl2O4
